US04245097
A solution of 20 g. of 11-bromoundecanoyl chloride in 100 ml. of methylene chloride is slowly added with stirring to a solution of 20 g. of ethyl 4-aminobenzoate in 100 ml. of methylene chloride. The mixture is filtered and the filtrate is washed with dilute hydrochloric acid and water, dried, and evaporated. Crystallization from acetonitrile affords ethyl 4-(11-bromoundecanamido)benzoate as a white solid.

reactant | 11-bromoundecanoyl chloride | BrCCCCCCCCCCC(=O)Cl | C11H20BrClO
reactant | ethyl 4-aminobenzoate | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | ethyl 4-(11-bromoundecanamido)benzoate | BrCCCCCCCCCCC(=O)NC1=CC=C(C(=O)OCC)C=C1 | C20H30BrNO3
